US06005000
A total of 3.4 mL (10.2 mmol) of 3.0 M methylmagnesium iodide in THF was added to a THF solution of 2.4 g (10 mmol) of ethyl 4-phenylbenzoylformate in an analogous manner as described for the synthesis of 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone to give prior to hydrogenolysis, 1.1 g (30% yield) of 5-[(1,1'-biphenyl)-4-yl]-3-phenylmethoxy-4-hydroxy-5-methyl-2(5H)-furanone as a white granular solid: m.p. 182-183° C. (benzene/hexanes) 1H NMR (CDCl3) δ 7.56-7.26 (m, 14H), 5.10 (ab quartet, 2H, J=11.4 Hz), 1.79 (s, 3H). 13C NMR (CDCl3) δ 168.5, 163.8, 141.5, 140.3, 137.0, 136.3, 129.0, 128.8, 128.8, 128.8, 127.6, 127.2, 127.1, 125.6, 119.0, 81.1, 73.5, 24.3. Anal Calcd for C24H20O4 : C, 77.40; H, 5.41. Found: C, 77.99; H, 5.61.

reactant | methylmagnesium iodide | 10.2 mmol, 3.0 M, 3.4 mL | C[Mg]I
reactant | ethyl 4-phenylbenzoylformate | 10 mmol, 2.4 g | C1(=CC=CC=C1)C1=CC=C(C(=O)C(=O)OCC)C=C1 | C16H14O3
reactant | 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone | OC=1C(OC(C1O)(C1=CC=CC=C1)C)=O | C11H10O4
solvent | THF | C1CCOC1 | C4H8O
product | 5-[(1,1'-biphenyl)-4-yl]-3-phenylmethoxy-4-hydroxy-5-methyl-2(5H)-furanone | 1.1 g, 30% yield | C1(=CC=C(C=C1)C1(C(=C(C(O1)=O)OCC1=CC=CC=C1)O)C)C1=CC=CC=C1 | C24H20O4
